US08735417B2
Bromine (0.14 mL, 2.7 mmol) was weighed into a vial and then diluted with acetic acid (1 mL). This solution was added dropwise (over 10 minutes) to a solution of ethyl 1-(1,3-thiazol-2-yl)piperidine-4-carboxylate (650 mg, 2.7 mmol) in acetic acid (12.5 mL). The mixture was then diluted with ethyl acetate (100 mL) and washed with water (100 mL) and brine (100 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo to provide 840 mg (2.63 mmol, 97% yield) of ethyl 1-(5-bromo-1,3-thiazol-2-yl)piperidine-4-carboxylate as a green oil.

reactant | Bromine | 2.7 mmol, 0.14 mL | BrBr | Br2
reactant | ethyl 1-(1,3-thiazol-2-yl)piperidine-4-carboxylate | 2.7 mmol, 650 mg | S1C(=NC=C1)N1CCC(CC1)C(=O)OCC | C11H16N2O2S
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12.5 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-(5-bromo-1,3-thiazol-2-yl)piperidine-4-carboxylate | 2.63 mmol, 840 mg, 97% yield | BrC1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C11H15BrN2O2S
